US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (167 mg, 0.392 mmol) with 4-cyclohexylthio-benzylamine (95.4 mg, 0.431 mmol) in anhydrous 1,4-dioxane (5 mL). Purify the crude mixture by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 13:7 gradient) to obtain 7-chloro-6-(4-cyclohexylthio-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (155 mg, 79%). MS (ES+) m/z: 519 (M+Na)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.392 mmol, 167 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-cyclohexylthio-benzylamine | 0.431 mmol, 95.4 mg | C1(CCCCC1)SC1=CC=C(CN)C=C1 | C13H19NS
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-chloro-6-(4-cyclohexylthio-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 155 mg, 79% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)SC1CCCCC1 | C25H28ClF3N2OS
